US07285563B2
N-[3,5-bis(trifluoromethyl)phenyl]-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and 3,5-bis(trifluoromethyl)phenyl isocyanate. m/z (ES+) 400 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 3,5-bis(trifluoromethyl)phenyl isocyanate | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
product | N-[3,5-bis(trifluoromethyl)phenyl]-N′-[quinolin-6-yl]urea | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)NC=1C=C2C=CC=NC2=CC1)(F)F | C18H11F6N3O
